US09193693B2
Step 2. 3-(2-Bromo-5-methoxyphenyl)propanenitrile
Into a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of MeCN (6.2 g, 151.22 mmol, 10.00 equiv) in tetrahydrofuran (20 mL). This was followed by the addition of n-BuLi (15.1 mL, 2.50 equiv, 2.5 M in hexane) dropwise with stirring at −78° C. The resulting solution was stirred for 1 h at −78° C. in a liquid nitrogen bath. To this was added a solution of 1-bromo-2-(bromomethyl)-4-methoxybenzene (4.2 g, 15.11 mmol, 1.00 equiv) in tetrahydrofuran (10 mL) dropwise with stirring at −78° C. The resulting solution was allowed to react, with stirring, for an additional 1 h while the temperature was maintained at −78° C. in a liquid nitrogen bath. The reaction mixture was then quenched by the addition of aqNH4Cl and extracted by EA (100 ml*3). The organic layers was concentrated and applied onto a silica gel column with PE/EA (10:1). This resulted in 2.29 g (63%) of 3-(2-bromo-5-methoxyphenyl)propanenitrile as a yellow semi-solid.

reactant | MeCN | 151.22 mmol, 6.2 g, 10.00 equiv | CC#N | C2H3N
reactant | n-BuLi | 2.5 M, 15.1 mL, 2.50 equiv | [Li]CCCC
reactant | 1-bromo-2-(bromomethyl)-4-methoxybenzene | 15.11 mmol, 4.2 g, 1.00 equiv | BrC1=C(C=C(C=C1)OC)CBr | C8H8Br2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(2-Bromo-5-methoxyphenyl)propanenitrile | BrC1=C(C=C(C=C1)OC)CCC#N | C10H10BrNO
